US07247727B2
To a suspension of (R)-valinol (1 g, 9.69 mmol) and Rhodanine (1.3 g, 9.69 mmol) in acetonitrile (40 mL) was added DIPEA (5.06 mL, 29 mmol) at room temperature. Then, this solution was cooled to 0° C. and mercuric chloride (2.72 g, 10 mmol) was added in two portions within a period of 10 min. After addition, the suspension was allowed to warm to room temperature and stirred for 2 days. The resulting black solids were filtered through a plug of celite and washed with ethyl acetate (500 mL). The filtrate was removed under the vacuum and the crude residue was diluted with water (100 mL) and ethyl acetate (100 mL). The two layers were separated and the aqueous layer was extracted with ethyl acetate (2×50 mL). The combined organic extracts were washed with brine solution and dried over anhydrous magnesium sulfate. Filtration of the drying agent and removal of the solvent under the vacuum gave crude residue which was purified by using a Biotage silica gel column chromatography to obtain 0.82 g (42% yield) of 2-(1-(R)-hydroxymethyl-2-methylpropylamino)-thiazol-4-one was isolated as a white amorphous solid: EI-HRMS m/e calcd for C8H14N2O2S (M+) 202.0776. found 202.0778.

reactant | (R)-valinol | 9.69 mmol, 1 g | N[C@H](C(C)C)CO | C5H13NO
reactant | Rhodanine | 9.69 mmol, 1.3 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | DIPEA | 29 mmol, 5.06 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 2-(1-(R)-hydroxymethyl-2-methylpropylamino)-thiazol-4-one | 0.82 g, 42% yield | OC[C@@H](C(C)C)NC=1SCC(N1)=O | C8H14N2O2S
